### PR TITLE
Exponentiating retracts of maps

### PR DESCRIPTION
**Pull request by fredrik-bakke**
Copy of #974.

> Depends on #973.
> 
> - [x] Show that precomp(and postcomp) exponentiation of a coherence prism of maps is a coherence prism of maps
> - [x] Show that exponentiation of a retract of maps is a retract of maps
> - [x] `f`-local types are local at any retract of `f` (this does not require the higher coherence of the prism)

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Here you go @VojtechStep

File: src/foundation/my-file-about-computing-htpy-precomp.lagda.md
Comment (fredrik-bakke) [inline src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: Turns out I had to resort to creating a similar file for some additional lemmas in #979, which suggests that we either need to refactor `whiskering-homotopies` or we need to create a file for computing higher-order homotopies. I would appreciate any advice or opinions. See `foundation.computing-higher-order-homotopies` in that PR.

File: src/foundation/morphisms-arrows.lagda.md [hunk 1]
```diff
@@ -426,6 +429,45 @@ module _
...
+    {l : Level} (S : UU l) → hom-arrow (precomp g S) (precomp f S)
+  pr1 (precomp-hom-arrow S) = precomp (map-codomain-hom-arrow f g α) S
+  pr1 (pr2 (precomp-hom-arrow S)) = precomp (map-domain-hom-arrow f g α) S
+  pr2 (pr2 (precomp-hom-arrow S)) h =
+    inv (eq-htpy (h ·l coh-hom-arrow f g α))
+```
+
+### Morphisms of arrows give morphisms of postcomposition arrows
+
+A morphism of arrows `α : f → g` gives a morphism of precomposition arrows
```
Comment (fredrik-bakke) [inline src/foundation/morphisms-arrows.lagda.md:454]:
```suggestion
A morphism of arrows `α : f → g` gives a morphism of postcomposition arrows
```

File: src/foundation.lagda.md [hunk 2]
```diff
@@ -219,6 +219,7 @@ open import foundation.multivariable-homotopies public
 open import foundation.multivariable-operations public
 open import foundation.multivariable-relations public
 open import foundation.multivariable-sections public
+open import foundation.my-file-about-computing-htpy-precomp public
```
Comment (EgbertRijke) [inline src/foundation.lagda.md:222]: Is this file name intentional?

File: src/foundation/my-file-about-computing-htpy-precomp.lagda.md [hunk 3]
```diff
@@ -0,0 +1,57 @@
+# My file about computing `htpy-precomp`
```
Comment (EgbertRijke) [inline src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: I don't understand the purpose of this file, and it feels like this PR should be a draft until you figure out how to properly name this file.

Comment (fredrik-bakke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: No. This is precisely why I'm requesting a review. I don't know what to call this file and I don't know anywhere else where these lemmas fit. As mentioned before, I face the same issue in #979. There, I've placed the lemmas in `computation-higher-order-homotopoes`.

Comment (fredrik-bakke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: please advice

File: src/foundation.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/foundation.lagda.md:222]: It's intentionally bad while I way for advice from a review, so that my PR is not merged by mistake.

Comment (fredrik-bakke) [reply src/foundation.lagda.md:222]: See discussion in my original PR: https://github.com/UniMath/agda-unimath/pull/974#discussion_r1433301745
I made a new one due to rebasing issues

File: src/foundation/my-file-about-computing-htpy-precomp.lagda.md (hunk 3 above)
Comment (EgbertRijke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: I will have more time to think seriously about this when I get back to Europe on January 5th

Comment (EgbertRijke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: I still feel that this should be a draft until we figure this out, because when you mark a PR as ready for review it feels more as ready to be considered for merging into the library, whereas this clearly shouldn't be considered for merging the way it is, so I'm gonna mark it as a draft again.

Comment (EgbertRijke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: Meanwhile, could you try to put in words what the purpose of these lemmas is, spell out the main ideas, basic explanations, and perhaps also an informal sketch of the proofs. The file currently has none of this, which is why it is hard for the reviewer to figure out what you want with your lemmas.

Comment (fredrik-bakke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: Sure, thanks for the guidance

File: src/foundation.lagda.md (hunk 2 above)
Comment (EgbertRijke) [reply src/foundation.lagda.md:222]: > It's intentionally bad while I wait for advice from a review, so that my PR is not merged by mistake.

It was surprising to me to see this, and I am not sure if I'm fond of the practice of doing something intentionally badly to provoke others to think about it, instead of just asking about it.

Comment (EgbertRijke) [reply src/foundation.lagda.md:222]: But I understand now that this PR comes from another PR, where the issue was already brought up. So it's all good:) Sorry for being slow with reviewing these days. I'm still in the US until Jan. 5th and after coming back I'll pick up my original routine and I'll be much more on point.

File: src/foundation/my-file-about-computing-htpy-precomp.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: The lemmas I want to formalize that I think fit well together are all about interactions between pre- and postcomposition with homotopies, including mixed instances where both pre- and postcomposition occur. This wasn't so clear to me when I first made the file, which was at first due to cyclic dependency issues. Other than that, I feel that the reason of being for this file is somewhat close to `path-algebra`, which I also consider to be a less well-motivated file.

Comment (EgbertRijke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: Would composition-algebra be an acceptable temporary name?

Comment (EgbertRijke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: And could you write something along those lines in that file?

Comment (fredrik-bakke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md]: can you have a look to see if you find the file acceptable now? 😅

**Comment by fredrik-bakke** [comment]
I'm flagging this one as ready for review now, because I think it is. I also added a little bonus theorem `postcomp-retract-map` :)

File: src/foundation-core/functoriality-function-types.lagda.md [hunk 4]
```diff
@@ -1,54 +0,0 @@
-# Functoriality of function types
```
Comment (EgbertRijke) [inline src/foundation-core/functoriality-function-types.lagda.md:1]: Could you explain the idea behind deleting this file? I feel like we should have gradually made more use of it, instead of deleting it.

File: src/foundation-core/postcomposition-functions.lagda.md [hunk 5]
```diff
@@ -0,0 +1,37 @@
...
+open import foundation.universe-levels
+
+open import foundation-core.function-types
+```
+
+</details>
+
+## Idea
+
+Given a map `f : X → Y` and a type `A`, the **postcomposition function**
```
Comment (EgbertRijke) [inline src/foundation-core/postcomposition-functions.lagda.md:20]: Please use the `{{#concept }}` macro

File: src/foundation-core/functoriality-function-types.lagda.md (hunk 4 above)
Comment (fredrik-bakke) [reply src/foundation-core/functoriality-function-types.lagda.md:1]: I deleted it because it had no content. The lemmas that were placed there were moved elsewhere as I explained [here](https://github.com/UniMath/agda-unimath/pull/974#issuecomment-1842955948).

File: src/foundation-core/function-extensionality.lagda.md [hunk 6]
```diff
@@ -217,7 +220,44 @@ coherence-square-htpy-eq-ap-precomp :
     ( htpy-eq)
     ( htpy-eq)
     ( precomp-Π f (eq-value g h))
-coherence-square-htpy-eq-ap-precomp f g .g refl = refl
+coherence-square-htpy-eq-ap-precomp f = coherence-square-htpy-eq-ap-precomp-Π f
+```
+
+Consider a map `f : B → C` and two functions `g h : A → B`. Then the square
```
Comment (EgbertRijke) [inline src/foundation-core/function-extensionality.lagda.md:226]: This section is missing a header. Also, the analogous case for precomposition is split up in the dependent case and the nondependent case, each of which has their own informal explanation. Could you similarly split up the naturally of `htpy-eq` with respect to postcomposition in a dependent case and a nondependent case?

File: src/foundation-core/precomposition-functions.lagda.md [hunk 7]
```diff
@@ -35,5 +35,5 @@ module _
   where
 
   precomp : (B → C) → (A → C)
-  precomp g = g ∘ f
+  precomp = _∘ f
```
Comment (EgbertRijke) [inline src/foundation-core/precomposition-functions.lagda.md:38]: I don't see this as an improvement. We discussed this many times.

File: src/foundation/action-on-identifications-binary-functions.lagda.md [hunk 8]
```diff
@@ -30,84 +30,77 @@ Given a binary operation `f : A → B → C` and identifications `p : x ＝ x'`
 
 ```agda
 ap-binary :
-  {l1 l2 l3 : Level} {A : UU l1} {B : UU l2}
-  {C : UU l3} (f : A → B → C) →
+  {l1 l2 l3 : Level} {A : UU l1} {B : UU l2} {C : UU l3} (f : A → B → C)
   {x x' : A} (p : x ＝ x') {y y' : B}
-  (q : y ＝ y') → (f x y) ＝ (f x' y')
+  (q : y ＝ y') →
+  f x y ＝ f x' y'
```
Comment (EgbertRijke) [inline src/foundation/action-on-identifications-binary-functions.lagda.md:36]: Why is this better?

File: src/foundation/commuting-prisms-of-maps.lagda.md [hunk 9]
```diff
@@ -179,3 +182,248 @@ module _
   rotate-vertical-coherence-prism-maps =
     map-equiv equiv-rotate-vertical-coherence-prism-maps
 ```
+
+### Commuting prisms of maps induces commuting prisms on function types via precomposition
```
Comment (EgbertRijke) [inline src/foundation/commuting-prisms-of-maps.lagda.md:186]:
```suggestion
### Commuting prisms of maps induce commuting prisms on function types via precomposition
```

The title is ungrammatical. Also, what is a commuting prism of function types? I think we only have commuting prisms of maps/homotopies/identifications and so on, but not of types. Would it be more accurate to say "commuting prisms of precomposition maps"?

File: src/foundation-core/function-extensionality.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/foundation-core/function-extensionality.lagda.md:226]: I didn't think the dependent case for postcomposition deserved any particular mention since it is such a niche case.

File: src/foundation-core/precomposition-functions.lagda.md (hunk 7 above)
Comment (fredrik-bakke) [reply src/foundation-core/precomposition-functions.lagda.md:38]: It makes the notation we use match the definition.

File: src/foundation/commuting-prisms-of-maps.lagda.md (hunk 9 above)
Comment (fredrik-bakke) [reply src/foundation/commuting-prisms-of-maps.lagda.md:186]: commuting prism in function types*

Comment (fredrik-bakke) [reply src/foundation/commuting-prisms-of-maps.lagda.md:186]: What you wrote is better though

File: src/foundation/commuting-prisms-of-maps.lagda.md [hunk 10]
```diff
@@ -179,3 +182,248 @@ module _
...
+      ( precomp hA S)
+      ( precomp-coherence-triangle-maps' f' g' h' inv-bottom S)
+      ( precomp-coherence-square-maps f hA hC f' front S)
+      ( precomp-coherence-square-maps h hA hB h' left S)
+      ( precomp-coherence-square-maps g hB hC g' right S)
+      ( precomp-coherence-triangle-maps' f g h inv-top S)
+      ( precomp-vertical-inv-boundary-vertical-coherence-inv-triangles-prism-maps)
+```
+
+### Commuting prisms of maps induces commuting prisms on function types via postcomposition
```
Comment (EgbertRijke) [inline src/foundation/commuting-prisms-of-maps.lagda.md:372]:
```suggestion
### Commuting prisms of maps induce commuting prisms of postcomposition maps
```

File: src/foundation/commuting-prisms-of-maps.lagda.md [hunk 11]
```diff
@@ -179,3 +182,248 @@ module _
   rotate-vertical-coherence-prism-maps =
     map-equiv equiv-rotate-vertical-coherence-prism-maps
 ```
+
+### Commuting prisms of maps induces commuting prisms on function types via precomposition
+
+We prove this for a few different formulations of commuting prisms of maps.
+
```
Comment (EgbertRijke) [inline src/foundation/commuting-prisms-of-maps.lagda.md:189]: It would be nice if you could draw the diagrams, so that readers can quickly get intuition for what is meant here. Same below for the postcomposition case.

File: src/foundation/commuting-squares-of-maps.lagda.md [hunk 12]
```diff
@@ -151,21 +151,62 @@ coherence-square-inv-all top left right bottom H =
       ( H))
 ```
 
-### Any commuting square of maps induces a commuting square of function spaces
+### Any commuting square of maps induces a commuting square of function spaces via precomposition
```
Comment (EgbertRijke) [inline src/foundation/commuting-squares-of-maps.lagda.md:154]:
```suggestion
### Any commuting square of maps induces a commuting square of precomposition maps
```

File: src/foundation/commuting-squares-of-maps.lagda.md [hunk 13]
```diff
@@ -151,21 +151,62 @@ coherence-square-inv-all top left right bottom H =
...
```
Comment (EgbertRijke) [inline src/foundation/commuting-squares-of-maps.lagda.md:155]: Would you be willing to draw the relevant squares here?

File: src/foundation/commuting-squares-of-maps.lagda.md [hunk 14]
```diff
@@ -151,21 +151,62 @@ coherence-square-inv-all top left right bottom H =
...
+    coherence-square-maps' top left right bottom → (X : UU l5) →
+    coherence-square-maps'
+      ( precomp right X)
+      ( precomp bottom X)
+      ( precomp top X)
+      ( precomp left X)
+  precomp-coherence-square-maps' = htpy-precomp
+```
+
+### Any commuting square of maps induces a commuting square of function spaces via postcomposition
```
Comment (EgbertRijke) [inline src/foundation/commuting-squares-of-maps.lagda.md:182]:
```suggestion
### Any commuting square of maps induces a commuting square of postcomposition maps
```

File: src/foundation/commuting-squares-of-maps.lagda.md (hunk 13 above)
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-maps.lagda.md:155]: Sure, why not.

File: src/foundation/commuting-squares-of-maps.lagda.md [hunk 15]
```diff
@@ -151,21 +151,62 @@ coherence-square-inv-all top left right bottom H =
...
+
```
Comment (EgbertRijke) [inline src/foundation/commuting-squares-of-maps.lagda.md:183]: Would you be willing to draw the relevant commuting squares here?

File: src/foundation/commuting-squares-of-maps.lagda.md (hunk 13 above)
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-maps.lagda.md:155]: I really wish we had another method of drawing diagrams than ascii though. Maybe we could write macros for generating SVGs?

File: src/foundation/commuting-triangles-of-maps.lagda.md [hunk 16]
```diff
@@ -71,3 +73,57 @@ module _
   coherence-triangle-maps-inv-top =
     map-equiv equiv-coherence-triangle-maps-inv-top
 ```
+
+### Any commuting triangle of maps induces a commuting triangle of function spaces via precomposition
```
Comment (EgbertRijke) [inline src/foundation/commuting-triangles-of-maps.lagda.md:77]:
```suggestion
### Any commuting triangle of maps induces a commuting triangle of precomposition maps
```

**Comment by fredrik-bakke** [comment]
Gotta go now, but I will try to get to your comments over the weekend. Thanks for reviewing!

File: src/foundation/commuting-triangles-of-maps.lagda.md [hunk 17]
```diff
@@ -71,3 +73,57 @@ module _
...
+    coherence-triangle-maps' left right top →
+    ( W : UU l4) →
+    coherence-triangle-maps'
+      ( precomp left W)
+      ( precomp top W)
+      ( precomp right W)
+  precomp-coherence-triangle-maps' = htpy-precomp
+```
+
+### Any commuting triangle of maps induces a commuting triangle of function spaces via postcomposition
```
Comment (EgbertRijke) [inline src/foundation/commuting-triangles-of-maps.lagda.md:104]:
```suggestion
### Any commuting triangle of maps induces a commuting triangle postcomposition maps
```

File: src/foundation/composition-algebra.lagda.md [hunk 18]
```diff
@@ -0,0 +1,314 @@
...
+```
+
+This file records their interactions with eachother and different operations on
+homotopies.
+
+## Properties
+
+### Precomposition distributes over whiskerings of homotopies
+
+The operation `htpy-precomp` distributes over whiskerings contravariantly. Given
```
Comment (EgbertRijke) [inline src/foundation/composition-algebra.lagda.md:49]: whiskering can be hyperlinked

File: src/foundation/function-extensionality.lagda.md [hunk 19]
```diff
@@ -72,6 +74,49 @@ coherence-square-eq-htpy-ap-precomp-Π f {C = C} g h =
     ( coherence-square-htpy-eq-ap-precomp-Π f g h)
 ```
 
+Consider a map `f : B → C` and two functions `g h : A → B`. Then the square
```
Comment (EgbertRijke) [inline src/foundation/function-extensionality.lagda.md:77]: This section is also missing a header, and could be split up in a dependent and a nondependent case, analogous for how we do it for precomposition.

File: src/foundation-core/functoriality-function-types.lagda.md (hunk 4 above)
Comment (EgbertRijke) [reply src/foundation-core/functoriality-function-types.lagda.md:1]: Ah, my apologies, I didn't notice that this is the `foundation-core` file. It makes sense now that you removed it.

File: src/foundation/morphisms-arrows.lagda.md [hunk 20]
```diff
@@ -424,6 +427,45 @@ module _
 
 Exercise for Fredrik.
```
Comment (EgbertRijke) [inline src/foundation/morphisms-arrows.lagda.md:428]: 😇

File: src/foundation/morphisms-arrows.lagda.md [hunk 21]
```diff
@@ -424,6 +427,45 @@ module _
...
 
+### Morphisms of arrows give morphisms of precomposition arrows
```
Comment (EgbertRijke) [inline src/foundation/morphisms-arrows.lagda.md:430]: Since the file about morphisms of arrows is already quite large, and I could foresee that precomposition arrows are going to need their own set of lemmas and propositions, perhaps it would make sense to put this in a new file `morphisms-precomposition-arrows` or some other more sensible name

File: src/foundation/morphisms-arrows.lagda.md [hunk 22]
```diff
@@ -424,6 +427,45 @@ module _
...
+`(-)^α : (–)^g → (–)^f`.
+
+```agda
+module _
+  {l1 l2 l3 l4 : Level}
+  {A : UU l1} {B : UU l2} {X : UU l3} {Y : UU l4}
+  (f : A → B) (g : X → Y) (α : hom-arrow f g)
+  where
+
+  precomp-hom-arrow :
```
Comment (EgbertRijke) [inline src/foundation/morphisms-arrows.lagda.md:442]: This name could very easily be confused with precomposition of morphism of arrows. It would make sense define `precomp-arrow` as an operation on arrows first, and then define this notion of morphisms on it. I think that refactor would immediately clarify the naming scheme.

Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Oh wait I had in mind that `arrow` is a diagram but we didn't define that yet, and I don't intend to ask you to do so.

File: src/foundation/morphisms-arrows.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:428]: I was inspecting this as you started reviewing 😅

File: src/foundation/morphisms-arrows.lagda.md (hunk 22 above)
Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: I do think it would make sense if we would have a type `arrow l1 l2` analogous to the span diagrams. Those would be the objects of the wild arrow category. I sense another round of refactoring here:)

File: src/foundation/postcomposition-dependent-functions.lagda.md [hunk 23]
```diff
@@ -0,0 +1,44 @@
...
+open import foundation.universe-levels
+
+open import foundation-core.function-types
+```
+
+</details>
+
+## Idea
+
+Given a type `A` and a dependent map `f : {a : A} → X a → Y a`, the **dependent
```
Comment (EgbertRijke) [inline src/foundation/postcomposition-dependent-functions.lagda.md:19]: Please use the macro `{{#concept }}`

File: src/foundation/postcomposition-functions.lagda.md [hunk 24]
```diff
@@ -1,7 +1,9 @@
-# Postcomposition
+# Postcomposition of functions
```
Comment (EgbertRijke) [inline src/foundation/postcomposition-functions.lagda.md:1]: Good catch!

File: src/foundation/retracts-of-types.lagda.md [hunk 25]
```diff
@@ -93,6 +96,21 @@ module _
...
+module _
+  {l1 l2 l3 : Level} {A : UU l1} {B : UU l2} (R : A retract-of B) (S : UU l3)
+  where
+
+  retract-precomp :
+    (A → S) retract-of (B → S)
+  pr1 retract-precomp = precomp (map-retraction-retract R) S
+  pr1 (pr2 retract-precomp) = precomp (inclusion-retract R) S
+  pr2 (pr2 retract-precomp) h =
+    eq-htpy (h ·l is-retraction-map-retraction-retract R)
```
Comment (EgbertRijke) [inline src/foundation/retracts-of-types.lagda.md:111]: This is not an official convention yet, but perhaps we can discuss it. When one component of a copattern matching definition doesn't fit on a line I like to put all components on new lines. Just for uniformity in the formatting of the definition. What do you think of such a convention?

Comment (fredrik-bakke) [reply src/foundation/retracts-of-types.lagda.md:111]: Sounds reasonable enough. By the way, I learned of `{-# INLINE pair #-}` yesterday (new in 2.6.4) which apparently will automatically turn definitions into copattern matching definitions. Worth checking out!

File: src/foundation/morphisms-arrows.lagda.md (hunk 22 above)
Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Oh no, my global function classes!

Bte I beg you to wait until we have done the fundamental wild category theory.

Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: While I'm still working on spans I won't do any other refactoring

File: src/foundation-core/precomposition-functions.lagda.md (hunk 7 above)
Comment (VojtechStep) [reply src/foundation-core/precomposition-functions.lagda.md:38]: Personally I'm able to parse the new version better

File: src/foundation/morphisms-arrows.lagda.md (hunk 22 above)
Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:442]: So is `precomp-hom-arrow` still the correct name for this thing, while `precomp-arrow` would be

```agda
precomp-arrow : (S : UU) → arrow → arrow
precomp-arrow S (A , B , f) = _ , _ , precomp S f
```
?

Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: I think not, because it suggests precomposition of morphisms of arrows. Perhaps `hom-precomp-arrow` could be clearer.

Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Or `hom-arrow-precomp`.

The reasoning would be that usually we obtain an arrow from a map. Now we take the arrow obtained from the precomposition map, hence `arrow-precomp` seems to be a sensible name-part.

Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Hmm, should `precomp-retract-map` be `retract-precomp-retract-map`?

Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Sorry, I don't have your code loaded in my head. Can you point me to it?

Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Right, sorry. The relevant definition is
```agda
precomp-retract-map : (precomp f S) retract-of-map (precomp g S)
pr1 precomp-retract-map = inclusion-precomp-retract-map
pr2 precomp-retract-map = retraction-precomp-retract-map
```

Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: I guess `retract-map-precomp` could be reasonable. If you put `precomp` first in the name it suggest that it is going to be a precomposition operation.

Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Or perhaps `retract-map-precomp-rectract-map`, which is closer to your suggestion but it has `retract-map` consistently

Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Yep, okay. I've been tripping up with this naming convention recently. For instance, I was thinking about renaming `htpy-precomp` to `precomp-htpy` and `coherence-square-maps-comp-horizontal` to `comp-horizontal-coherence-square-maps`. This would give a pretty consistent scheme of `[operation]-[object]`

Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:442]: Ok that could be reasonable, but let's do that later (perhaps after spans is merged). I think you're right that things are a little inconsistent here and there with coherence squares, and I've also started to develop some preferences but I don't have time to think them through again right now because I'm trying to get spans done.

Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:442]: I'll use `hom-arrow-precomp` and `retract-map-precomp` for now.

Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:442]: No, actually, `hom-arrow-precomp-hom-arrow` and `retract-map-precomp-retract-map` 😅

**Comment by fredrik-bakke** [comment]
Okay, this is pretty interesting to me, although I'm probably just missing something obvious. I tried replacing the definition of `ap-binary` with one that computes to `ap` when the left argument is `refl` (similar to `concat`). I.e.,
```agda
ap-binary :
  {x x' : A} (p : x ＝ x') {y y' : B} (q : y ＝ y') → f x y ＝ f x' y'
ap-binary {x} refl q = ap (f x) q
```
Somehow this makes Agda unable to infer certain arguments elsewhere, for instance in `synthetic-homotopy-theory.eckmann-hilton-argument` and `foundation.path-algebra`. It still typechecks if I supply Agda with the appropriate arguments, and if I simply revert the definition to

```agda
ap-binary refl refl = refl
```

then Agda stops complaining again.

File: src/foundation/morphisms-arrows.lagda.md (hunk 21 above)
Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:430]: May I suggest that we postpone this refactoring? If we should give this a separate file, then I would expect us also to have separate files for precomposition w.r.t. commuting diagrams of different shapes, morphisms of sequential diagrams, and so on, which would be a bit of a refactoring job. Moreover, after the advent of wild category theory, all of these files will have a collection of properties that follow easily from facts about wild categories I think, so that seems like a more appropriate time to do it.

File: src/foundation/morphisms-arrows.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:428]: I don't I have it in me to finish this one right now, but I think I've adequately addressed all of your other comments. Would it be okay to defer this one to a separate PR? I am down to do it, just not this week-end perhaps.

Comment (fredrik-bakke) [reply src/foundation/morphisms-arrows.lagda.md:428]: I don't I have it in me to finish this one right now, but I think I've adequately addressed all of your other comments. Would it be okay to defer this one to a separate PR? I am down to do it, just not this week-end perhaps.

**Comment by fredrik-bakke** [comment]
I've replied to or resolved all of your comments now. Let me know if there are still things you want to be done before this PR is merged!

**Review by VojtechStep — COMMENTED** [review]
This is a partial review for now, so far it looks great 👌

File: src/foundation/commuting-squares-of-maps.lagda.md [hunk 26]
```diff
@@ -151,21 +151,123 @@ coherence-square-inv-all top left right bottom H =
...
+### Commuting squares of maps induce commuting squares of precomposition maps
+
+Every commuting square
+
+```text
+             top
+    A -----------------> X
+    |                    |
+    |                    |
+   left       ⇗        right
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-maps.lagda.md:163]: to have the text break over the arrow lines? I don't see anything wrong with it and it gives a lot of extra space for longer text.

[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/commuting-squares-of-maps.lagda.md:163]: It looked a bit off to me initially, but I guess I don't really have a problem with it.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-maps.lagda.md:163]: Such as for the diagram below

File: src/foundation/action-on-identifications-binary-functions.lagda.md [hunk 27]
```diff
@@ -17,97 +17,164 @@ open import foundation-core.identity-types
...
+```
+
+### The binary action on identifications evaluated on the diagonal
+
+The binary action on identifications evaluated on the diagonal computes as an
+instance of unary action on identifications. Specifically, we have the following
+uncurried [commuting square](foundation-core.commuting-squares-of-maps.md)
+
+```text
+                            Δ(-) ∘ 1
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/action-on-identifications-binary-functions.lagda.md:106]: Fair enough. In this informal section I intended for the symbol `Δ` to be overloaded, but I changed it as you asked

File: src/foundation/action-on-identifications-binary-functions.lagda.md [hunk 28]
```diff
@@ -17,97 +17,164 @@ open import foundation-core.identity-types
...
+```
+
+### The binary action on identifications evaluated on the diagonal
+
+The binary action on identifications evaluated on the diagonal computes as an
+instance of unary action on identifications. Specifically, we have the following
+uncurried [commuting square](foundation-core.commuting-squares-of-maps.md)
+
+```text
+                           (- ∘ Δ) ∘ 1
```
Comment (fredrik-bakke) [inline src/foundation/action-on-identifications-binary-functions.lagda.md:106]:
```suggestion
                           (- ∘ Δ) × 1
```

File: src/foundation/whiskering-homotopies.lagda.md [hunk 29]
```diff
@@ -265,3 +266,40 @@ module _
...
+
+  coh-htpy-comp-horizontal :
+    {f f' : (x : A) → B x} {g g' : {x : A} → B x → C x}
+    (F : f ~ f') (G : {x : A} → g {x} ~ g' {x}) →
+    htpy-comp-horizontal F G ~ htpy-comp-horizontal' F G
+  coh-htpy-comp-horizontal {f} F G =
+    ind-htpy f
+      ( λ f' F → htpy-comp-horizontal F G ~ htpy-comp-horizontal' F G)
+      ( coh-left-unit-htpy-comp-horizontal G)
+      ( F)
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-homotopies.lagda.md:299]: I'm curious if there is a proof of this that doesn't use function extensionality

File: src/foundation/morphisms-arrows.lagda.md (hunk 20 above)
Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:428]: No problem at all. That line was meant as a light hearted joke, not as a request:)

File: src/foundation/whiskering-homotopies.lagda.md (hunk 29 above)
Comment (EgbertRijke) [reply src/foundation/whiskering-homotopies.lagda.md:299]: Sure, that's worth thinking about. I'm marking this as resolved for now because I would like to work towards merging this PR

File: src/foundation/morphisms-arrows.lagda.md (hunk 21 above)
Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:430]: Sure!

File: src/foundation/whiskering-homotopies.lagda.md (hunk 29 above)
Comment (fredrik-bakke) [reply src/foundation/whiskering-homotopies.lagda.md:299]: Great :)

File: src/foundation/my-file-about-computing-htpy-precomp.lagda.md
Comment (EgbertRijke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: Oh yikes! We definitely can't merge this PR now. Please don't make a habit of making intentionally bad filenames. It is annoying.

**Comment by EgbertRijke** [comment]
I'm marking this PR as a draft until it fixes the unreasonable file name. I almost merged it, but it definitely shouldn't be merged.

**Comment by fredrik-bakke** [comment]
Which file are you referring to? `foundation.composition-algebra`, `foundation-core.postcomposition-functions` or `foundation.postcomposition-dependent-functions`?

File: src/foundation/my-file-about-computing-htpy-precomp.lagda.md
Comment (EgbertRijke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: Oh wait was I commenting about an outdated file? My apologies if that is the case. I was jumping to unresolved conversations and it showed me the file `my-file-about...`

Comment (fredrik-bakke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: This is outdated, yes

Comment (EgbertRijke) [reply src/foundation/my-file-about-computing-htpy-precomp.lagda.md:1]: Ok, then it is ready to merge. My apologies, it wasn't immediately obvious to me from what github shows me here.

**Comment by EgbertRijke** [comment]
As we discovered above, it was an outdated file. All is good now and auto-merge is on. Thank you for your ever awesome work Fredrik!
